Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo male with history of reactive arthritis and asthma 
presented to the ED with syncope. He had just finished eating 
pizza with mango and pulled pork from a new restaurant they 
tried when he felt that the sides of his face were becoming 
flushed. Of note, he has had four prior episodes of vasovagal 
syncope and is anxious about any new symptoms. These vasovagal 
episodes have always been previously in the setting of alcohol, 
whereas he does not report alcohol last night. As a result, he 
went to the bathroom to wet his face and saw that his eyes were 
red. He thought that he might have been having an allergic 
reaction so asked his wife for benadryl. However, he then "zoned 
out" and his head went to the right side with his eyes also 
deviated to the right. His wife reported "unsettled breathing". 
He was "out of it" for ___ seconds but then came to. He was 
sweating and confused for about a minute after he woke up. He 
felt fatigued and out of it. He reports remembering almost the 
event with the exception of passing out. His wife reports he was 
not responsive during this time. He denies CP, SOB, LH, 
dizziness prior to passing out. There was no tongue biting, 
drooling, or incontinence during the event. His wife reports 
that his eyes have been darting around since the event.  
He has felt fatigued over the past few days. He reports that his 
reactive arthritis has been worse over the past 10 days with 
discomfort in his hands, feet, hips and back. He normally does 
not have neck pain but his neck has been stiff on both sides. He 
denies recent travel or sick contacts.  
He was awake when EMS arrived. They reported a BP of 70/30 
without a palpable radial pulse. They put him on stretcher in 
reverse trendelenberg and his BP went up to 110s.  
 
Initial VS in the ED 98.3 86 139/73 16 97%. Labs notable for a 
negative trop x 1, glucose 121, HCT 38.5, but 45% lymphocytes. 
An EKG done in the ED showed a NSR at 78, with an S wave in II, 
but normal PR, QRS, and QTc intervals, without evidence of WPW. 
A CXR prelim read show no acute cardiopulmonary process. Patient 
was given 1.5 L NS. VS prior to transfer 97.9 71 125/80 18 97% 
on RA.  
 
On the floor, he denies any current symptoms except for fatigue. 
 
Review of systems: He has been feeling "hazy" the last couple of 
days, but believes this to be hay fever, otherwise negative 
unless noted above.  
 

 
Past Medical History:
Past Medical History:  
-Reactive Arthritis with primary involvement of his hands  
-Hypertension for the past ___ years, unclear what initial workup 
was done  
-GERD  
-Asthma  
-s/p Appendectomy 
 
Social History:
___
Family History:
Family History: No family history of sudden death in the young 
or cardiac dz; mom has hx of brain aneurysm. Father with 
___. Sister with MS.
 
___ Exam:
VS - Temp 98.0F, BP 104-130/55-74, HR 59-91, R 16, O2-sat 96% RA 
 
General: well appearing male in NAD
HEENT: PERRL pupils bilaterally 1.5 to 1mm, EOMI, mucus 
membranes moist, sclera anicteric
Neck: supple, no JVD, no lymphadenopathy, no thyromegaly  
CV: RRR, no murmurs, 2+ distal pulses
Lungs: Nonlabored breathing, CTAB
Abdomen: +BS, soft, nontender, nondistended
GU: Deferred
Ext:  WWP, no edema, no calf swelling/tenderness
Neuro: A&Ox3, CN III-XII grossly intact, motor ___ throughout,  
sensation intact, terminal nystagmus bilaterally
Skin: No rashes, tan

 
Pertinent Results:
___ 09:00PM   ___ PTT-26.1 ___
___ 09:00PM   WBC-5.4 RBC-4.34* HGB-13.1* HCT-38.5* MCV-89 
MCH-30.2 MCHC-34.0 RDW-13.2
___ 09:00PM   NEUTS-46.8* LYMPHS-45.1* MONOS-4.5 EOS-3.1 
BASOS-0.4
___ 09:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:00PM   cTropnT-<0.01
___ 09:00PM   GLUCOSE-121* UREA N-15 CREAT-1.0 SODIUM-136 
POTASSIUM-3.9 CHLORIDE-101 TOTAL CO2-24 ANION GAP-15
___  07:35AM   cTropnT-<0.01
___  07:35AM   TSH 3.7
 
Brief Hospital Course:
Mr. ___ is a ___ yo male with history of 4 prior vasovagal 
syncopal episodes, HTN, asthma, and reactive arthritis, presents 
with syncope precipitated by anxiety and heart palpitations vs. 
possible right head and eye deviation during the episode and 
question of post-ictal state.

ACTIVE ISSUES:

# Syncope:
Loss of consciousness was most likely vasovagal syncope in the 
setting of prior vasovagal episodes and report of anxiety/ 
palpitations precipitating the event. Orthostatic vitals were 
taken and demonstrated HR increased >20bpm  and he was given IVF 
repletion.
Because of concern for seizure given head and eye deviation and 
possible post-ictal state/ confusion, he underwent 20 minute EEG 
which was normal. He had a head CT/CTA which showed "Normal head 
CTA.  No evidence of aneurysm."
Work-up of cardiac causes of syncope included normal ECGs, 
negative troponins x2, no murmur on exam, and confirmation of 
history of normal echo with PCP in ___. Continuous cardiac 
monitoring on telemetry was normal.
   
INACTIVE ISSUES:

#Reactive Arthritis
He required tylenol for joint pain during the hospitalization. 
We continued his home dose of sulfasalazine and ibuprofen.

#GERD
He had no abdominal pain or heart burn, and we continued his 
home dose of PPI.

#Asthma
He had no shortness of breath or wheezing during this 
hospitalization and did not require albuterol.

TRANSITIONAL ISSUES:

#Hypertension
Treated with Lisinopril and is likely primary. The flushing and 
sweating prior to episode and young age were concerning for 
secondary HTN, so serum metanephrines were sent and were pending 
at time of discharge. Lisinopril was continued and his blood 
pressures were <140/80. Please follow up serum metanephrines at 
next PCP ___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. NexIUM *NF* (esomeprazole magnesium) 40 mg Oral Daily 
2. Lisinopril 40 mg PO DAILY 
hold for SBP <100, HR <60 
3. SulfaSALAzine_ 1000 mg PO BID 
4. ProAir HFA *NF* (albuterol sulfate) 90 mcg/actuation 
Inhalation q4h prn sob 
5. Ibuprofen 600 mg PO BID 

 
Discharge Medications:
1. Lisinopril 40 mg PO DAILY 
2. SulfaSALAzine_ 1000 mg PO BID 
3. Ibuprofen 600 mg PO BID 
4. NexIUM *NF* (esomeprazole magnesium) 40 mg Oral Daily 
5. ProAir HFA *NF* (albuterol sulfate) 90 mcg/actuation 
Inhalation q4h prn sob 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Vasovagal syncope
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to the hospital for loss of consciousness. 
While you were here, we did several tests to look for the cause 
of this symptom.
You received ECGs, which test your heart's rate and rhythm, and 
they were normal. We spoke to your PCP's office and they have an 
echocardiogram on file from ___ which showed normal 
anatomy and function of your heart. 
You also had a head CT angiogram that was normal with no 
evidence of aneurysm or lesions.
You also had an EEG, which looks at your brain waves, that was 
normal.
Given these test results and your clinical presentation, the 
most likely cause of the loss of consciousness is vasovagal 
syncope.
 
Followup Instructions:
___